US04093742
N-ethyl-N'-methyl-N'-[2,6-dimethyl-4-(hexafluoro-2-hydroxy-2-propyl)phenyl]urea
Heat at reflux for three hours 13.5 g of N,2,6-trimethylaniline (0.100 mole) and 40 g of hexafluoroacetone sesquihydrate (0.21 mole). Allow to cool, pour onto water. Collect the solid, dry and recrystallize from ether-hexane to give 27.9 g white solid; m.p. 143°-144° C. Dissolve 6 g of the product, N,2,6-trimethyl-4-(hexafluoro-2-hydroxy-2-propyl)aniline (20 mmole) and 5.4 g of ethyl isocyanate (80 mmole) in Et2O. After 16 hours, concentrate and recrystallize the residual solid from etherhexane to give 6.2 g of a white solid; m.p. 178°-179° C.

reactant | N,2,6-trimethyl-4-(hexafluoro-2-hydroxy-2-propyl)aniline | 20 mmole | CNC1=C(C=C(C=C1C)C(C(F)(F)F)(C(F)(F)F)O)C | C12H13F6NO
reactant | ethyl isocyanate | 80 mmole, 5.4 g | C(C)N=C=O | C3H5NO
solvent | Et2O | CCOCC | C4H10O
product | N-ethyl-N'-methyl-N'-[2,6-dimethyl-4-(hexafluoro-2-hydroxy-2-propyl)phenyl]urea | 6.2 g | C(C)NC(=O)N(C1=C(C=C(C=C1C)C(C(F)(F)F)(C(F)(F)F)O)C)C | C15H18F6N2O2
